US07943630B2
3-(3,4-Dichloro-phenyl)-9-methyl-3,9-diaza-spiro[5.5]undecane
Was prepared according to method A from 3-methyl-3,9-diaza-spiro[5.5]undecane and 1-bromo-3,4-dichlorobenzene as a yellow oil. LC-ESI−HRMS of [M+H]+ shows 313.1238 Da. Calc. 313.123829 Da, dev. −0.1 ppm.

reactant | 3-methyl-3,9-diaza-spiro[5.5]undecane | CN1CCC2(CC1)CCNCC2 | C10H20N2
reactant | 1-bromo-3,4-dichlorobenzene | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
product | 3-(3,4-Dichloro-phenyl)-9-methyl-3,9-diaza-spiro[5.5]undecane | ClC=1C=C(C=CC1Cl)N1CCC2(CC1)CCN(CC2)C | C16H22Cl2N2
